US07230020B2
N-Methyl-N-(2-methylbenzothiazol-5-yl)-4-propylbenzamide (STX472, DGS03076A)
To a solution of N-(2-methylbenzothiazol-5-yl)-4-propylbenzamide (130 mg, 0.4 mmol) in DMF (5 mL) was added sodium hydride (17 mg, 0.44 mmol), followed by methyl iodide (85 mg, 059 mmol). The mixture was stirred at rt overnight, partitioned between water and ethyl acetate. The organic phase was washed with brine, dried over sodium sulphate and concentrated to give a residue that wad purified with flash chromatography (ethyl acetate-hexane gradient elution). A thick syrup (41 mg, 26% was obtained. 1H NMR (400 MHz, CDCl3): δ 7.61-7.79 (3H, m, ArH), 7.22-7.26 (2H, m, ArH), 6.92-7.02 (2H, m, ArH), 3.54 (3H, s, CH3) 2.81 (3H, s, CH3), 2.45 (2H, t J=7.4 Hz, CH2) 1.52 (2H, m, CH2), 0.83 (3H, t, .J=7.4 Hz, CH3); FAB-MS 325 (MH+); FAB-HRMS calcd for C19H21N2OS (MH+) 325.1375, found 325.1992.

reactant | N-(2-methylbenzothiazol-5-yl)-4-propylbenzamide | 0.4 mmol, 130 mg | CC=1SC2=C(N1)C=C(C=C2)NC(C2=CC=C(C=C2)CCC)=O | C18H18N2OS
reactant | sodium hydride | 0.44 mmol, 17 mg | [H-].[Na+]
reactant | methyl iodide | 85 mg | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Methyl-N-(2-methylbenzothiazol-5-yl)-4-propylbenzamide | CN(C(C1=CC=C(C=C1)CCC)=O)C=1C=CC2=C(N=C(S2)C)C1 | C19H20N2OS
